US09120824B2
Description 22: methyl 4-((S)-1-((R)-1-(3-(trifluoromethyl)benzyl)piperidine-2-carboxamido)ethyl)benzoate (D22)
The title compound (D22) (18 mg) was prepared according to the general procedure for substituted benzyl amines preparation starting from methyl 4-((S)-1-((R)-piperidine-2-carboxamido)ethyl)benzoate (D12) (40 mg, 0.14 mmol) and 3-(trifluoromethyl)benzyl bromide (0.031 ml, 0.21 mmol). (Na2CO3: 2.5 eq; reaction time: 4 hrs; 60° C.)

reactant | methyl 4-((S)-1-((R)-piperidine-2-carboxamido)ethyl)benzoate | 0.14 mmol, 40 mg | N1[C@H](CCCC1)C(=O)N[C@@H](C)C1=CC=C(C(=O)OC)C=C1 | C16H22N2O3
reactant | 3-(trifluoromethyl)benzyl bromide | 0.21 mmol, 0.031 ml | FC(C=1C=C(CBr)C=CC1)(F)F | C8H6BrF3
reactant | Na2CO3 | C(=O)([O-])[O-].[Na+].[Na+]
product | methyl 4-((S)-1-((R)-1-(3-(trifluoromethyl)benzyl)piperidine-2-carboxamido)ethyl)benzoate | 18 mg | FC(C=1C=C(CN2[C@H](CCCC2)C(=O)N[C@@H](C)C2=CC=C(C(=O)OC)C=C2)C=CC1)(F)F | C24H27F3N2O3
